US04260774
To a suspension of 455 mg of 4-carbamoylimidazolium-5-olate in 5 ml of dry pyridine was added 1.02 g of benzoyl chloride at a temperature below 5° C. After addition was over, the mixture was stirred under ice cooling for 2 hours. Then separated crystals were filtered off, washed with water and ether, dried to give 5-carbamoyl-1H-imidazol-4-yl benzoate, m.p. 204° C. (dec.).

reactant | 4-carbamoylimidazolium-5-olate | 455 mg | C(N)(=O)C=1NC=[NH+]C1[O-] | C4H5N3O2
reactant | benzoyl chloride | 1.02 g | C(C1=CC=CC=C1)(=O)Cl | C7H5ClO
solvent | pyridine | 5 ml | N1=CC=CC=C1 | C5H5N
product | 5-carbamoyl-1H-imidazol-4-yl benzoate | C(C1=CC=CC=C1)(=O)OC=1N=CNC1C(N)=O | C11H9N3O3
